US05219876
2-Cyano-2-(4-bromophenyl)-1-(1H-1,2,4-triazol-1-yl)-butane
2.2 g (0.032 Mol ) of 1,2,4-triazole and 1.3 g (0.032 mol) pulverised NaOH in 30 ml of dimethylsulfoxide are heated at 110°. To this mixture are added, within a few minutes, at 110° a solution of 2-cyano-2-(4-bromophenyl)butylbromide in 10 mol of dimethylsulfoxide. The reaction mixture is stirred at 110° for another 90 minutes, poured into 600 ml of water and extracted several times with diethylether. The united ether phases are washed with water and dried with magnesiumsulfate. Thereafter the ether is evaporated at the water jet and residues of dimethylsulfoxide at high vacuum to give the title compound (solid; m.p. 68°-70°, Rf=0.45 employing CH2Cl2 /CH3OH 95:5 as eluant).

reactant | 1,2,4-triazole | 0.032 Mol, 2.2 g | N1N=CN=C1 | C2H3N3
reactant | NaOH | [OH-].[Na+]
reactant | 2-cyano-2-(4-bromophenyl)butylbromide | C(#N)C(CBr)(CC)C1=CC=C(C=C1)Br | C11H11Br2N
reactant | water | 600 ml | O | H2O
solvent | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 10 mol | CS(=O)C | C2H6OS
product | 2-Cyano-2-(4-bromophenyl)-1-(1H-1,2,4-triazol-1-yl)-butane | C(#N)C(CN1N=CN=C1)(CC)C1=CC=C(C=C1)Br | C13H13BrN4
